US07186716B2
5-(1H-pyrazolo[3,4-b]pyridin-3-yl)-1H-pyrrole-3-carboxylic acid, 4-chlorobenzylamide
A mixture of 5-(1H-pyrazolo[3,4-b]pyridin-3-yl)-1H-pyrrole-3-carboxylic acid (50 mg, 0.22 mmol), HOBt (74 mg, 2.5 eq.). EDAC•HCl (105 mg, 2.5 eq.), 4-chlorobenzylamine (4 eq.) and TEA (0.5 mL) in DMF (1 mL) was heated at 40° C. overnight. The reaction was concentrated and the residue was purified on a silica gel column to give the titled compound as a white solid.

reactant | 5-(1H-pyrazolo[3,4-b]pyridin-3-yl)-1H-pyrrole-3-carboxylic acid | 0.22 mmol, 50 mg | N1N=C(C=2C1=NC=CC2)C2=CC(=CN2)C(=O)O | C11H8N4O2
reactant | HOBt | 74 mg, 2.5 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDAC•HCl | 105 mg, 2.5 eq. | CCN=C=NCCCN(C)C.Cl
reactant | 4-chlorobenzylamine | 4 eq. | ClC1=CC=C(CN)C=C1 | C7H8ClN
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 5-(1H-pyrazolo[3,4-b]pyridin-3-yl)-1H-pyrrole-3-carboxylic acid, 4-chlorobenzylamide | ClC1=CC=C(CNC(=O)C2=CNC(=C2)C2=NNC3=NC=CC=C32)C=C1 | C18H14ClN5O
